US09427475B2
Step D: 2-azidoethyl 3-O-α-D-mannopyranosyl-α-D-mannopyranoside
In a 50 mL round bottom flask was added 2-azidoethyl 2,4-di-O-benzoyl-3-O-(2,3,4,6-tetra-O-benzoyl-α-D-mannopyranosyl)-α-D-mannopyranoside (350 mg, 0.338 mmol) and CH3OH (5 mL). To the above solution was added NaOCH3 (conc) dropwise till pH >10. The reaction mixture was allowed to stir at 25° C. for 6 hr. To the above solution was added Dowex H+(50W×8-200) resin till pH ˜7. The solid resin was filtered off and the filtrate was concentrated to give the title compound. LC-MS Method A: m/e=434.00 [M+1]; Rt=0.44 min.

reactant | 2-azidoethyl 2,4-di-O-benzoyl-3-O-(2,3,4,6-tetra-O-benzoyl-α-D-mannopyranosyl)-α-D-mannopyranoside | 0.338 mmol, 350 mg | C(C1=CC=CC=C1)(=O)O[C@@H]1[C@@H](OCCN=[N+]=[N-])O[C@@H]([C@H]([C@@H]1O[C@@H]1[C@@H](OC(C2=CC=CC=C2)=O)[C@@H](OC(C2=CC=CC=C2)=O)[C@H](OC(C2=CC=CC=C2)=O)[C@H](O1)COC(C1=CC=CC=C1)=O)OC(C1=CC=CC=C1)=O)CO | C56H49N3O17
reactant | NaOCH3 | O([Na])C
solvent | CH3OH | 5 mL | CO | CH4O
product | 2-azidoethyl 3-O-α-D-mannopyranosyl-α-D-mannopyranoside | [C@H]1([C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)O[C@@H]1[C@@H]([C@@H](OCCN=[N+]=[N-])O[C@@H]([C@H]1O)CO)O | C14H25N3O11
